US09085555B2
[3-(2-Hydroxy-acetyl)-indol-1-yl]-acetic acid
was prepared from 2-hydroxy-1-(1H-indol-3-yl)-ethanone [2400-51-3] in a similar manner as described in Scheme A13 (step B and C) for the preparation of (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid. Colored solid. MS: 234.0 [M+H]+, 489.0 [2M+Na]+; tR (HPLC conditions c): 3.11 min.

reactant | 2-hydroxy-1-(1H-indol-3-yl)-ethanone | OCC(=O)C1=CNC2=CC=CC=C12 | C10H9NO2
reactant | (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)CC(=O)O | C13H10F3NO4
product | [3-(2-Hydroxy-acetyl)-indol-1-yl]-acetic acid | OCC(=O)C1=CN(C2=CC=CC=C12)CC(=O)O | C12H11NO4
